US05616620
a) N5 -[Amino (nitroimino) methyl]-N2 -(diphenylacetyl)-N-[2-(5-methoxy-1H-indol-3-yl) ethyl]-ornithinamide
Prepared analogously to Example 5d) from (R)-N5 -[amino (nitroimino) methyl]-N2 -(diphenylacetyl)-ornithine, 5-methoxytryptamine and TBTU in a yield of 36% of theory.

reactant | (R)-N5 -[amino (nitroimino) methyl]-N2 -(diphenylacetyl)-ornithine | NC(NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)=N[N+](=O)[O-] | C20H23N5O5
reactant | 5-methoxytryptamine | COC1=CC=C2NC=C(CCN)C2=C1 | C11H14N2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | N5 -[Amino (nitroimino) methyl]-N2 -(diphenylacetyl)-N-[2-(5-methoxy-1H-indol-3-yl) ethyl]-ornithinamide | yield of 36% | NC(NCCC[C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCCC1=CNC2=CC=C(C=C12)OC)=N[N+](=O)[O-] | C31H35N7O5
